US06429214B1
(6-Hydroxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid ethyl ester
A solution of 2-(5-hydroxy-2-nitro-benzylidene)-succinic acid diethyl ester (3.8 g, 12 mmol) in ethanol (35 mL) was hydrogenated over 10% Pd—C (0.8 g) at 25° C. and 1 atm. After 20 h, the catalyst was filtered through diatomaceous earth and washed with ethanol (3×35 mL). The filtrate was concentrated giving a mixture of solid and foam (2.8 g). Flash chromatography (190 g silica; 20%, then 40% EtOAc-hexane) gives the title compound (1.3 g, 45% yield) as a pale yellow solid.

reactant | 2-(5-hydroxy-2-nitro-benzylidene)-succinic acid diethyl ester | 12 mmol, 3.8 g | C(C)OC(C(CC(=O)OCC)=CC1=C(C=CC(=C1)O)[N+](=O)[O-])=O | C15H17NO7
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | ethanol | 35 mL | C(C)O | C2H6O
catalyst | Pd—C | 0.8 g | [Pd] | Pd
product | (6-Hydroxy-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid ethyl ester | 1.3 g, 45% yield | C(C)OC(CC1C(NC2=CC=C(C=C2C1)O)=O)=O | C13H15NO4
